US07638118B2
But-2-enedioic acid 2-(2-dimethylamino-ethoxy)-ethyl ester ethyl ester
To the solution of 2-[2-(dimethylamino)-ethoxy]ethanol (13.35 g, 100 mmol, 1.9 equiv.) and 4-dimethylaminopyridine (50 mg) in toluene (80 ml) is added a solution of fumaric acid monoethylester monochloride (8.50 g, 52 mmol, 1.0 equiv.) in toluene (20 ml) at 23° C. over 25 min. The temperature rises to 34° C. and an orange suspension is formed. After 5 h stirring at room temperature, the mixture is poured on ice-cooled saturated aqueous NaHCO3 solution and the product is extracted with ethyl acetate. The organic layer is washed 3 times with H2O, then twice with brine. It is then dried over MgSO4 and concentrated in a rotary evaporator. The residue is dissolved in methyl t-butyl ether and SiO2 (6.0 g) is added to the solution. The suspension is shaken vigorously, then filtered and again concentrated and dried under high vacuum (23° C., 0.05 mbar). This yields the product (6.71 g, 50%) as a yellow liquid.

reactant | 2-[2-(dimethylamino)-ethoxy]ethanol | 100 mmol, 13.35 g, 1.9 equiv. | CN(CCOCCO)C | C6H15NO2
reactant | fumaric acid monoethylester monochloride | 52 mmol, 8.50 g, 1.0 equiv. | [Cl-].C(C)OC(\C=C\C(=O)O)=O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | 4-dimethylaminopyridine | 50 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | But-2-enedioic acid 2-(2-dimethylamino-ethoxy)-ethyl ester ethyl ester | 6.71 g, 50% | C(C)OC(C=CC(=O)OCCOCCN(C)C)=O | C12H21NO5
